Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Iodine
 
Attending: ___.
 
Chief Complaint:
bilateral hallux gangrene
 
Major Surgical or Invasive Procedure:
bilateral hallux TMA 

 
History of Present Illness:
Mr. ___ is a ___ patient with ESRD currently on HD due to 
failed renal transplant (Last dialysis ___. He recently was 
started on Apixaban due to a fib. At ___ he underwent 
arteriogram due to upper extremity gangrene involving the tips 
of the second and third fingers of both hands.
Arteriogram showed mid forarm occlusion of the radial artery but 
good flow via the ulnar. He was evaluated by vascular medicine 
recently due to bilateral hallux gangrene. 

 
Past Medical History:
ESRD due to polycystic kidney disease, on HD ___ to ___ s/p
SCD renal transplant ___
GERD
Hepatitis C, treated with interferon monotherapy then Harvoni
post-transplant
Hypertension 
Hyperparathyroidism status post subtotal parathyroidectomy 
revision ___, thyroid lobectomy. 
Gout. 
Carotid stenosis. 
Restless legs syndrome. 
Depression. 
L5-S1 discitis, osteomyelitis, epidural abscess ___
enterococcus bacteremia, treated with 10 days of
ampicillin/gentamycin Endocarditis (___) 

 
Social History:
___
Family History:
Father: ___, pancreatic cancer, alcohol and drug abuse
Mother: ___, diabetes
Sister: CAD
- Most sisters (___ or ___) with DM 
Brother: healthy
Son: ___

 
Physical Exam:
Prior to admission

Physical Exam:
Vital Signs sheet entries for ___: 
BP: 142/80. Heart Rate: 80. O2 Saturation%: # (unable to get a
reading ). Weight: 138.2 (With Clothes; With Shoes). Height: 
68.5
(With Shoes). BMI: 20.7. Temperature: 99.1. Resp. Rate: 17. Pain
Score: 10.
GEN: A&O, NAD
HEENT: No scleral icterus
CV: RRR
PULM: No respiratory distress
ABD: Soft, nondistended, nontender
EXT:
-Bilateral ulnar, radial, & palmar arch dopplerable signals. 
Palpable ulnar pulses.
Fingertips of bilateral second and third digits have gangrene
extending to the nailbed but not proximal to the distal
interphalangeal joint.
Left upper extremity AV fistula nonpalpable.  No thrill or 
pulse.

Both femoral and popliteal pulses are palpable.  There are no
palpable pulses present at the ankles.  Trace edema is present. 
Bilateral hallux ulceration involving the nailbeds to the
proximal interphalangeal joint is noted.  This has slight odor
but is largely dry.

 97.9  PO     BP 167 / 92 R Lying    // HR  82//   RR 17  //  
FSBS 63 
GEN:  awake/ alert /appropriate affect /speech clear
lungs: CTA bilaterally 
COR: + systolic murmur (known per pt)
ACW: right sub clavicular line dressing CDI
EXT:  known bilateral upper extremity digit dry gangrene to 
multiple fingers/ pictures in OMR.  DP and ___ pulses dopplerable 
with excellent signal bilaterally.  no edema - bilateral hallux 
incisions CDI without drainage.  Sutures intact.  

 
Pertinent Results:
___ 04:41AM BLOOD WBC-3.9* RBC-3.67* Hgb-10.5* Hct-35.1* 
MCV-96 MCH-28.6 MCHC-29.9* RDW-17.8* RDWSD-61.9* Plt ___
___ 04:39AM BLOOD WBC-5.2 RBC-3.86* Hgb-10.9* Hct-36.3* 
MCV-94 MCH-28.2 MCHC-30.0* RDW-17.8* RDWSD-60.7* Plt ___
___ 04:41AM BLOOD Plt ___
___ 04:39AM BLOOD Plt ___
___ 04:41AM BLOOD Glucose-102* UreaN-27* Creat-5.5*# Na-139 
K-4.5 Cl-94* HCO3-29 AnGap-16
___ 04:39AM BLOOD Glucose-89 UreaN-52* Creat-9.1* Na-137 
K-5.1 Cl-96 HCO3-23 AnGap-18
___ 04:41AM BLOOD Calcium-8.3* Phos-4.5 Mg-2.1
___ 04:39AM BLOOD Calcium-9.3 Phos-4.7* Mg-2.5
 
Brief Hospital Course:
Pt was admitted for the proposed procedure and underwent 
bilateral hallux amputation without difficulty.  His procedure 
was completed on ___ by Dr. ___.

Postop day one he went to HD and tolerated this well.  His diet 
and activity were advanced - lab values remained stable.  He was 
cleared to ambulate essential distances only with surgical 
shoes.  

His apixaban was restarted on post op day #1 at 2.5mg po bid.  

He will maintain Bactrim SS once daily x 5 days postoperatively. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 5 mg PO EVERY OTHER DAY 
2. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever 
3. Gabapentin 300 mg PO QHS 
4. Cinacalcet 30 mg PO DAILY 
5. vitamin A and D    topical DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. NIFEdipine (Extended Release) 60 mg PO DAILY 
8. Apixaban 5 mg PO BID 
9. Epoetin ___ ___ UNIT IV WITH HD 
10. Ranitidine 150 mg PO DAILY 
11. Atorvastatin 80 mg PO QPM 
12. Furosemide 80 mg PO 4X/WEEK (___) 
13. Ferrous GLUCONATE 324 mg PO DAILY 
14. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
15. OxyCODONE (Immediate Release) 10 mg PO QAM:PRN Pain - 
Moderate 
16. OxyCODONE (Immediate Release) 10 mg PO QPM:PRN Pain - 
Moderate 
17. OxyCODONE (Immediate Release) 30 mg PO NOON 
18. sevelamer CARBONATE 800 mg PO DAILY 
19. Amitriptyline 100 mg PO QHS 
20. folic acid-vit B6-vit B12 (vit B complx-folic ac-C-biotin) 
0.8-10-115 mg-mg-mcg oral DAILY 
21. Doxercalciferol 4 mcg IV 3X/WEEK (___) 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Aspirin Low Dose] 81 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*11 
2.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY Duration: 5 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim] 400 mg-80 mg 1 
tablet(s) by mouth once a day Disp #*5 Tablet Refills:*0 
3.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild/Fever  
4.  Amitriptyline 100 mg PO QHS  
5.  Apixaban 5 mg PO BID  
6.  Atorvastatin 80 mg PO QPM  
7.  Cinacalcet 30 mg PO DAILY  
8.  Doxercalciferol 4 mcg IV 3X/WEEK (___)  
9.  Epoetin ___ ___ UNIT IV WITH HD  
10.  Ferrous GLUCONATE 324 mg PO DAILY  
11.  folic acid-vit B6-vit B12 (vit B complx-folic ac-C-biotin) 
0.8-10-115 mg-mg-mcg oral DAILY  
12.  Furosemide 80 mg PO 4X/WEEK (___)  
13.  Gabapentin 300 mg PO QHS  
14.  Metoprolol Succinate XL 25 mg PO DAILY  
15.  NIFEdipine (Extended Release) 60 mg PO DAILY  
16.  Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain  
17.  OxyCODONE (Immediate Release) 10 mg PO QPM:PRN Pain - 
Moderate  
18.  OxyCODONE (Immediate Release) 10 mg PO QAM:PRN Pain - 
Moderate  
19.  PredniSONE 5 mg PO EVERY OTHER DAY  
20.  Ranitidine 150 mg PO DAILY  
21.  sevelamer CARBONATE 800 mg PO DAILY  
22.  vitamin A and D    topical DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
bilateral hallux gangrene

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent - should only be 
walking essential distances only in a surgical shoe 

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___.  During your hospitalization, you had surgery to 
remove unhealthy tissue on your lower extremity.  You tolerated 
the procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.

LOWER  EXTREMITY AMPUTATION (bilateral first hallux) 
DISCHARGE INSTRUCTIONS

ACTIVITY 

•You should keep your amputation site elevated whenever 
possible.It is very important that you put WEIGHT BEAR FOR 
ESSENTIAL DISTANCES ONLY UNTIL YOU ARE SEEN IN FOLLOW UP. 

MEDICATION

•Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

•You will likely be prescribed narcotic pain medication on 
discharge which  can be very constipating.  If you take 
narcotics,  please also take a stool softener such as Colace.   
If constipation becomes a problem, your pharmacist can suggest 
an additional over the counter laxative. 

•You should take Tylenol ___ every 6 hours, as needed for 
pain.  If this is not enough, take your prescription narcotic 
pain medication.  You should require less pain medication each 
day.  Do not take more than a daily total of 3000mg of Tylenol.  
Tylenol is used as an ingredient in some other over-the-counter 
and prescription medications.  Be aware of how much Tylenol you 
are taking in a day.

BATHING/SHOWERING: 
•You may shower when you feel strong enough but no tub baths or 
pools until you have permission from your surgeon and the 
incision is fully healed.  DO NOT SOAK YOUR INCISION.
•After your shower, gently dry the incision well.   Do not rub 
the area. 

WOUND CARE:
•Please keep the wound clean and dry. It is very important that 
there is no pressure on the wound.    If there is no drainage, 
you may leave the incision open to air.  

•Your staples/sutures will remain in for at least 3 weeks.  At 
your followup appointment, we will see if the incision has 
healed enough to remove the sutures. 

CALL THE OFFICE FOR: ___
•Opening, bleeding or drainage or odor from your wound incision 

•Redness, swelling or warmth in your wound.
•Fever greater than 101 degrees, chills, or worsening 
incisional/wound pain  

NO OTHER PROVIDER, EXCEPT YOUR VASCULAR SURGEON, SHOULD 
DETERMINE IF YOUR SUTURES ARE READY TO BE REMOVED FROM YOUR 
WOUND!   
IF THERE ARE ANY QUESTIONS, THE PROVIDER SHOULD CALL THE 
VASCULAR SURGERY OFFICE AT ___ TO DISCUSS.   THE 
SUTURES WILL BE REMOVED IN THE OFFICE AT YOUR FOLLOWUP 
APPOINTMENT WHEN IT IS DETERMINED BY THE VASCULAR SURGEON THAT 
THE WOUND HAS SUFFICIENTLY HEALED.
 
Followup Instructions:
___